US08211896B2
Synthesis of N-[4-Chloro-2-(2-methyl-pyridine-3-carbonyl)-phenyl]-4-methanesulfonyl-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using (2 amino-5-chloro-phenyl)-(2-methyl-pyridin-3-yl)-methanone and 4-methanesulfonyl-benzenesulfonyl chloride and purified by HPLC. 1H NMR (CDCl3) δ 10.86 (br s, 1, NH), 8.65 (dd, 1H, J=4.8 Hz, J=1.8 Hz), 8.02 (m, 4H), 7.78 (d, 1H, J=8.8 Hz), 7.53 (dd, 1H, J=8.8 Hz, J=2.6 Hz), 7.1-7.3 (m, 3H), 3.07 (s, 3H), 2.41 (s, 3H). MS: m/z 465 (M+1).

reactant | (2 amino-5-chloro-phenyl)-(2-methyl-pyridin-3-yl)-methanone | NC1=C(C=C(C=C1)Cl)C(=O)C=1C(=NC=CC1)C | C13H11ClN2O
reactant | 4-methanesulfonyl-benzenesulfonyl chloride | CS(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO4S2
product | N-[4-Chloro-2-(2-methyl-pyridine-3-carbonyl)-phenyl]-4-methanesulfonyl-benzenesulfonamide | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)C)C(=O)C=1C(=NC=CC1)C | C20H17ClN2O5S2
